US08258130B2
A solution of 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid (5-fluoro-indol-1-yl)-amide (300 mg, 0.82 mmol) in THF (8 mL) is cooled to 0° C., treated with chlorosulfonyl isocyanate (86 μL, 0.99 mmol) and the mixture is stirred at rt for 1 h. The mixture is treated with Et3N (138 μL, 0.99 mmol) and stirred for 1 h. The mixture is diluted with brine, extracted with EtOAc. The organic layer is separated, dried (Na2SO4), filtered and concentrated in vacuo. The residue is purified by silica gel chromatography eluting with 25% -35% EtOAc in heptane to afford 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid (3-cyano-5-fluoro-indol-1-yl)-amide (120 mg, 38%). MS: 390 (M+H); 1H NMR (300 MHz, DMSO-d6): δ 2.78 (s, 3H), 7.32 (m, 1H), 7.46 (m, 1H), 7.55 (m, 1H), 7.66 (m, 1H), 7.77 (m, 1H), 8.20 (m, 1H), 8.35 (m, 1H), 8.65 (s, 1H), 9.28 (s, 1H).

reactant | 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid (5-fluoro-indol-1-yl)-amide | 0.82 mmol, 300 mg | FC=1C=C2C=CN(C2=CC1)NC(=O)C=1C(=NC(=NC1)C1=CC(=CC=C1)F)C | C20H14F2N4O
reactant | chlorosulfonyl isocyanate | 0.99 mmol, 86 μL | ClS(=O)(=O)N=C=O | CClNO3S
reactant | Et3N | 0.99 mmol, 138 μL | CCN(CC)CC | C6H15N
solvent | THF | 8 mL | C1CCOC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid (3-cyano-5-fluoro-indol-1-yl)-amide | 120 mg, 38% | C(#N)C1=CN(C2=CC=C(C=C12)F)NC(=O)C=1C(=NC(=NC1)C1=CC(=CC=C1)F)C | C21H13F2N5O
